US09428495B2
Preparation of 886355 using modifications to Scheme 7 and Scheme 4: To a stirred solution of (R)-1-amino-3-(benzyloxy)propan-2-ol, Compound 22 in Scheme 7 (8.0 g, 44.1 mmol) in DMF (60 mL) was added (S)-2-chlorobutanoic acid (5.0 g, 40.8 mmol) followed by TEA (10.5 g. 103.8 mmol), DMAP (0.4 g, 3.3 mmol) and finally EDC (9.52 g, 49.7 mmol). The reaction mixture was stirred at rt for 5 d after which time the completed reaction was concentrated to a crude syrup. Purification over silica gel (Biotage, eluting with a gradient of 20-100% EtOAc in heptanes) followed by collection of the desired fractions, concentration and drying in vacuo provided (S)—N—((R)-3-(benzyloxy)-2-hydroxypropyl)-2-chlorobutanamide (683.5 mg, 2.392 mmol, 5.9% yield).

reactant | (R)-1-amino-3-(benzyloxy)propan-2-ol | NC[C@H](COCC1=CC=CC=C1)O | C10H15NO2
reactant | (S)-2-chlorobutanoic acid | 40.8 mmol, 5.0 g | Cl[C@H](C(=O)O)CC | C4H7ClO2
reactant | EDC | 49.7 mmol, 9.52 g
solvent | DMF | 60 mL | CN(C)C=O | C3H7NO
catalyst | DMAP | 3.3 mmol, 0.4 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | (S)—N—((R)-3-(benzyloxy)-2-hydroxypropyl)-2-chlorobutanamide | 2.392 mmol, 683.5 mg, 5.9% yield | C(C1=CC=CC=C1)OC[C@@H](CNC([C@H](CC)Cl)=O)O | C14H20ClNO3
